US08304419B2
Step C: 6-Chloro-4-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-2-pyridinecarbonitrile
The title compound was prepared in a similar manner to that described herein using 6-chloro-2-fluoro-3-methylphenol (0.60 g, 3.74 mmol) and 6-chloro-4-nitro-2-pyridinecarbonitrile (0.69 g, 3.74 mmol) to give the title compound as a white solid (0.98 g, 88%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.20-7.24 (1H, m) 7.16 (1H, d) 7.14 (1H, d) 6.98 (1H, d) 2.33 (3H, d). LCMS: m/z 297 (M+1).

reactant | 6-chloro-2-fluoro-3-methylphenol | 3.74 mmol, 0.60 g | ClC1=CC=C(C(=C1O)F)C | C7H6ClFO
reactant | 6-chloro-4-nitro-2-pyridinecarbonitrile | 3.74 mmol, 0.69 g | ClC1=CC(=CC(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
product | 6-Chloro-4-[(6-chloro-2-fluoro-3-methylphenyl)oxy]-2-pyridinecarbonitrile | 0.98 g, 88% | ClC1=CC(=CC(=N1)C#N)OC1=C(C(=CC=C1Cl)C)F | C13H7Cl2FN2O
